US07491735B2
Using general procedure A, 1-Boc-4-piperidone (1.00 g, 5.03 mmol) and 4-amino-N,N-dibenzyl-benzenesulfonamide (Mikhura, I. V.; et al., Russ. J. Org. Chem., 36, 1, 2002, 64-68) (1.53 g, 4.34 mmol) afforded 4-(4-dibenzylsulfamoyl-phenylamino)-piperidine-1-carboxylic acid tert-butyl ester as a white solid (1.27 g, 55%).

reactant | 1-Boc-4-piperidone | 5.03 mmol, 1.00 g | C(=O)(OC(C)(C)C)N1CCC(CC1)=O | C10H17NO3
reactant | 4-amino-N,N-dibenzyl-benzenesulfonamide | 4.34 mmol, 1.53 g | NC1=CC=C(C=C1)S(=O)(=O)N(CC1=CC=CC=C1)CC1=CC=CC=C1 | C20H20N2O2S
product | 4-(4-dibenzylsulfamoyl-phenylamino)-piperidine-1-carboxylic acid tert-butyl ester | 1.27 g, 55% | C(C)(C)(C)OC(=O)N1CCC(CC1)NC1=CC=C(C=C1)S(N(CC1=CC=CC=C1)CC1=CC=CC=C1)(=O)=O | C30H37N3O4S
